US03979398
Preparation of N-Cyano-N'-methyl-N"-[2-((2-thiazolyl)methylsulphinyl)ethyl]guanidine.
Sodium metaperiodate (220 mg, 1.03 m.mol) was added to a stirred solution of N-cyano-N'-methyl-N"-[2-((2-thiazolyl)methylthio)ethyl]guanidine (255 mg, 1.0 m.mol) in water (90 ml). After 1 hour at 25° then 17 hours at 5° t.l.c. indicated the reaction was essentially complete. The solution was evaporated under reduced pressure at 60° to dryness, with azeotroping with n-propanol (2×). The residue was boiled with isopropanol (20 ml) for 3 minutes, filtered hot from 205 mg of inorganic salts, (100%), and evaporated under reduced pressure to a clear glass which was stirred continuously for 4 days under ether to give crude product (273 mg, 100%) m.p. 110° (softens only). Purification was effected by dissolution in acetonitrite (15 ml) and dilution of the filtered warm solution with ether to 220 ml. After 17 hours standing the precipitate had crystallised yielding, after filtration and washing with ether, N-cyano-N'-methyl-N" -[2-((2-thiazolyl)methylsulphinyl)ethyl]guanidine, (335 mg), m.p. 112°-113°C. Found: C, 39.62; H, 5.03; N, 25.64%. C9H13N5OS2 requires: C, 39.83; H, 4.83; N, 25.81%.

reactant | Sodium metaperiodate | 220 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | N-cyano-N'-methyl-N"-[2-((2-thiazolyl)methylthio)ethyl]guanidine | 255 mg | C(#N)NC(=NCCSCC=1SC=CN1)NC | C9H13N5S2
solvent | water | 90 ml | O | H2O
product | N-Cyano-N'-methyl-N"-[2-((2-thiazolyl)methylsulphinyl)ethyl]guanidine | 273 mg, 100% | C(#N)NC(=NCCS(=O)CC=1SC=CN1)NC | C9H13N5OS2
